Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Intermittent disorientation/confusion, possible transient left 
facial droop
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ yo RH man with no known PMH who was brought to ED for
disorientation/acting off his baseline for last 10 days. At OSH
ED, head CT showed hypodensity in right basal ganglia and he was
transferred to ___ for further neurologic evaluation.

Patient reports that he was in his baseline until last ___.
He was out mowing lawn for 3 hours and he felt little bit "off"
and disoriented so he got off the lawn mower and felt that his
gait was unsteady. He also felt that his thinking was slow,
though had difficulty describing exactly what was wrong. He
brushed it off as he thought it may be related to machine fumes
and went to play golf. He didn't feel like he was having
difficulty with playing golf and did not notice any weakness. On
___, he was supposed to go look at his son's new apartment
but forgot that he was supposed to go. When his sons came by to
see why he was late, they noticed that his left face was droopy.
Yesterday, he fell asleep during the day (which is also unusual)
and woke up at 8pm, and thought it was 8 am next morning so he
called up his son to go golfing with him as they had planned.
They thought it was very odd for him to not know what day it is
and acting strangely, so they called his ex-wife who convinced
him to go to ED. 

On neuro ROS, the pt denies headache, loss of vision, blurred
vision, diplopia, dysarthria, dysphagia, lightheadedness,
vertigo, tinnitus or hearing difficulty. Denies difficulties
producing or comprehending speech.  Denies focal weakness,
numbness, parasthesiae. No bowel or bladder incontinence or
retention. Denies difficulty with gait.

On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Has
chronic cough due to smoking. Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
No known prior medical problems
 
Social History:
___
Family History:
Father with dementia; mother passed away from lung
cancer in her ___ (smoker). Sister has MS. ___ has kidney
disease and high cholesterol. No stroke in the family.

 
Physical Exam:
Admission exam:
98.8   78   121/66  14  99% RA
General: Awake, cooperative, NAD.
HEENT: NC/AT
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: CTABL
Cardiac: RRR, no murmurs
Abdomen: soft, nontender, nondistended
Extremities: no edema, pulses palpated
Skin: small papular erythematous rashes scattered on his chest,
nonpruritic.

Neurologic:
-Mental Status: Alert, oriented x 3.  Able to relate history
without difficulty.  Attentive, able to name ___ backward 
without
difficulty.  Language is fluent with intact repetition and
comprehension.  Normal prosody.  There were no paraphasic 
errors.
Pt. was able to name both high and low frequency objects.  Able
to read without difficulty.  Speech was not dysarthric. Able to
follow both midline and appendicular commands. Pt. was able to
register 3 objects and recall ___ at 5 minutes. There was no
evidence of neglect. Calculation was intact (answers seven
quarters in $1.75 and $0.68 to 1.00-0.32). There was no evidence
of left-right confusion as the patient was able to accurately
follow the instruction to touch left ear with right hand.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and brisk. VFF to confrontation. 
III, IV, VI: EOMI without nystagmus.  Normal saccades.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. No adventitious movements, such as tremor, noted. 
No
asterixis noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5 
R  5    ___   ___  5   5    5  5     5     5
-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense, proprioception throughout. No extinction to 
DSS.
Intact stereognosis and graphesthesia. 
-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Brisk withdrawal from plantar stimulation, toes seems to be
downgoing.
-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF bilaterally.
-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk on toe/heel/tandem without difficulty.
Romberg absent.
.
.
.
Discharge exam:
AVSS
General: Awake, cooperative, NAD.
HEENT: NC/AT
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: CTABL
Cardiac: RRR, no murmurs
Abdomen: soft, nontender, nondistended
Extremities: no edema, pulses palpated
Skin: small papular erythematous rashes scattered on his chest,
nonpruritic.

Neurologic:
-Mental Status: Alert, oriented x 3.  Able to relate history
without difficulty.  Attentive, able to name ___ backward 
without
difficulty.  Language is fluent with intact repetition and
comprehension.  Normal prosody.  There were no paraphasic 
errors.
Pt. was able to name both high and low frequency objects.  Able
to read without difficulty.  Speech was not dysarthric. Able to
follow both midline and appendicular commands. 

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and brisk. VFF to confrontation. 
III, IV, VI: EOMI without nystagmus.  Normal saccades.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. No adventitious movements, such as tremor, noted. 
No
asterixis noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5 
R  5    ___   ___  5   5    5  5     5     5
-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense, proprioception throughout. No extinction to 
DSS.
Intact stereognosis and graphesthesia. 
-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Brisk withdrawal from plantar stimulation, toes seems to be
downgoing.
-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF bilaterally.
-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk on toe/heel/tandem without difficulty.
Romberg absent.

 
Pertinent Results:
Admission labs:
___ 08:45PM BLOOD WBC-5.8 RBC-5.37 Hgb-15.7 Hct-44.7 MCV-83 
MCH-29.3 MCHC-35.2* RDW-13.7 Plt ___
___ 08:45PM BLOOD Neuts-44.9* ___ Monos-12.4* 
Eos-5.3* Baso-1.2
___ 08:45PM BLOOD ___ PTT-29.6 ___
___ 08:45PM BLOOD Plt ___
___ 08:45PM BLOOD Glucose-101* UreaN-18 Creat-1.0 Na-140 
K-4.1 Cl-104 HCO3-27 AnGap-13
___ 08:45PM BLOOD ALT-27 AST-22 LD(LDH)-181 CK(CPK)-97 
AlkPhos-60 TotBili-0.3
___ 08:45PM BLOOD CK-MB-2 cTropnT-<0.01
___ 07:00AM BLOOD CK-MB-2 cTropnT-<0.01
___ 08:45PM BLOOD Albumin-4.3 Calcium-9.3 Phos-4.0 Mg-2.4
___ 07:00AM BLOOD Calcium-8.9 Phos-3.0 Mg-2.2 Cholest-238*
___ 07:00AM BLOOD %HbA1c-5.7 eAG-117
___ 07:00AM BLOOD Triglyc-131 HDL-36 CHOL/HD-6.6 
LDLcalc-176*
___ 07:00AM BLOOD TSH-1.8
___ 08:45PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
.
Reports:
Cardiovascular ReportECGStudy Date of ___  9:09:14 ___
Sinus rhythm. Normal tracing. No previous tracing available for 
comparison.
Read ___.
 IntervalsAxes
___
___
.
MRI/MRA ___
 Right caudate head and internal capsule subacute infarction. 
There appears to be a tiny amount of hemorrhage within this 
infarction. 
Images of the remainder of the brain demonstrate white matter 
hyperintensity on FLAIR suggesting chronic small vessel 
ischemia.  There are no other findings to suggest recent 
infarction.
The MRA examinations are normal.
.
TTE ___
he left atrium is elongated. No left atrial mass/thrombus seen 
(best excluded by transesophageal echocardiography). No atrial 
septal defect or patent foramen ovale is seen by 2D, color 
Doppler or saline contrast with maneuvers. Left ventricular wall 
thickness, cavity size and regional/global systolic function are 
normal (LVEF >55%). Doppler parameters are most consistent with 
normal left ventricular diastolic function. There is no 
ventricular septal defect. Right ventricular chamber size and 
free wall motion are normal. The diameters of aorta at the 
sinus, ascending and arch levels are normal. The aortic valve 
leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic stenosis or aortic regurgitation. No 
masses or vegetations are seen on the aortic valve. The mitral 
valve appears structurally normal with trivial mitral 
regurgitation. There is no mitral valve prolapse. No mass or 
vegetation is seen on the mitral valve. The pulmonary artery 
systolic pressure could not be determined. No vegetation/mass is 
seen on the pulmonic valve. There is an anterior space which 
most likely represents a prominent fat pad.  
.
CT Urogram ___
IMPRESSION: Normal CT urogram.  
 
Brief Hospital Course:
Mr. ___ is a ___ yo RH man with tobacco use who presents 
some intermittent disorientation/confusion since the ___ 
PTA and was found to have a right caudate infarction.
.
ACTIVE ISSUES
# Confusion: Clinically not confused in hospital. In addition, 
face was symmetric in hospital. R basal ganglia hypodensity on 
CT scan. Infarct confirmed on MRI/MRA. TTE and carotids 
unremarkable. A1c 5.7. TSH 1.8. LDL 176; started atorvastatin. 
Aspirin was started. Stroke packet was dispensed. Diet and 
smoking cessation were discussed; patient started on nicotine 
patch. 
.
# Asymptomatic hematuria: No Foley placed. CTU did not show 
stone; of note bladder was collapsed. There was concern for 
bladder cancer given age and smoking history. Deferred continued 
work-up (cystoscopy, possible cytology) to outpatient physician. 

.
# Hyperlipidemia: Newly diagnosed, LDL 176. No known prior 
history of hyperlipidemia. Atorvastatin was started.
.
# Atelectasis vs. minimal aspiration: Mild on CXR with intact 
speech/swallow. Suspected mild atelectasis. 
.
INACTIVE ISSUES
# None
.
TRANSITIONAL ISSUES
# STROKE: Please continue to encourage smoking cessation. 
Re-check lipids in 3 months; adjust statin as needed (goal LDL 
<70). 
.
# ASYMPTOMATIC HEMATURIA: CT urogram negative with caveat that 
bladder was not full. Please continue work-up (urology, 
cystoscopy, cytology) as an outpatient. 
.
# BLOOD PRESSURE: Please assess for hypertension as outpatient. 
Difficult to interpret borderline blood pressures while in 
hospital. 
.
# ATELECTASIS vs. minimal aspiration: please follow 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1. Nicotine Patch 14 mg TD DAILY 
RX *nicotine 14 mg/24 hour Apply 1 patch to NEW site on skin 
daily Disp #*14 Transdermal Patch Refills:*1
2. Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet,delayed release (___) by mouth 
daily Disp #*30 Tablet Refills:*3
3. Atorvastatin 20 mg PO DAILY 
RX *atorvastatin 20 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*3

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis: Ischemic stroke
Secondary diagnosis: Hyperlipidemia
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you while you were hospitalized at 
___. As you recall, you were 
admitted for left facial droop and confusion. We found that you 
had a stroke on the right side of your brain. Smoking and high 
cholesterol contributed to your stroke. It is unclear whether 
you have high blood pressure as well (your primary care 
physician ___ have to test this when you are not in a hospital 
setting which can be stressful and falsely elevate blood 
pressures). You do not have diabetes. 

It is critically important to get a primary care physician who 
you can see on a regular basis. Your primary care physician 
needs to follow up on your blood pressure and cholesterol and 
also needs to further investigate the blood we found in your 
urine. It is absolutely essential that this is done.

You should also be seen by a urologist regarding the blood in 
your urine, and will need to have a cystoscopy performed as an 
outpatient. You may contact Dr. ___ at ___ 
to set this up.

If you cannot find a primary care physician who can see you 
within two weeks, call ___ and ask to be set up with 
a primary care physician at ___ so that you can at least 
be seen shortly after discharge.

You have been prescribed a nicotine patch to help you stop 
smoking.

Your medication list has changed. 
START
1. Aspirin 81mg daily
2. Atorvastatin 20mg daily
3. Nicotine patch 14mg patch daily
 
Followup Instructions:
___